data/mechanisms/records/IMS4-EQ4.4a.json
{"mechanism_id": "IMS4-EQ4.4a", "species": [{"species_id": "precursor", "mapped_smiles": "[CH2:1]1[CH:2]([OH+:3])[CH2:5][CH2:4]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "vinyl_alcohol_cation", "mapped_smiles": "[CH2:1]=[CH:2][OH+:3]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethylene", "mapped_smiles": "[CH2:4]=[CH2:5]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["precursor"]}, {"state_id": "state_products", "species_ids": ["vinyl_alcohol_cation", "ethylene"]}], "steps": [{"step_id": "step_retro_2plus2", "from_state": "state_precursor", "to_state": "state_products", "step_class": "retro_2plus2_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 4]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 4]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 5]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 5]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_retro_2plus2", "support_type": "textbook_proposed", "locator": {"page": 55, "equation": "4.4", "section": "4.4 Reaction classifications"}, "confidence": 0.85, "curator_note": "Cyclobutanol molecular ion (n-ionised at oxygen, +. drawn on the OH) undergoing retro-[2+2] ring cleavage to vinyl alcohol radical cation + ethylene (charge retention on the O-bearing fragment). Book draws 4 fishhook barbs: a two-barbed homolysis mark on EACH of the two cleaved ring bonds (left Cc-Ca = bond<1,4> and right Cb-Cd = bond<2,5>); all four encoded single-electron moves are drawn -- each cleaved bond sends one electron to each of the two forming pi bonds (C1=C2 vinyl-alcohol and C4=C5 ethylene). The O(+.) is a spectator and keeps its charge+radical."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 72.057, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_ion", "species_id": "vinyl_alcohol_cation", "step_id": "step_retro_2plus2", "observed_mz": 44.0257, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
